US08703808B2
To a solution of (5-methoxy-1H-indol-3-yl)-acetonitrile (2.0 g, 11.0 mmol, 1.0 eq.) and (Boc)2O (3.42 mL, 16.0 mmol, 1.5 eq.) in anhydrous dichloromethane (150 mL) was added, under an argon atmosphere, DMAP (66 mg, 0.54 mmol, 0.05 eq.). The reaction mixture was stirred at room temperature for 1 hour, and then quenched with aqueous bicarbonate solution. The organic layer was washed with water and brine, dried over MgSO4 and then, evaporated to afford tert-butyl 3-(cyanomethyl)-5-methoxy-1H-indol-1-carboxylate as a white powder (3.2 g, quantitative). mp: 130° C.

reactant | (5-methoxy-1H-indol-3-yl)-acetonitrile | 11.0 mmol, 2.0 g, 1.0 eq. | COC=1C=C2C(=CNC2=CC1)CC#N | C11H10N2O
reactant | (Boc)2O | 16.0 mmol, 3.42 mL, 1.5 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.54 mmol, 66 mg, 0.05 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 3-(cyanomethyl)-5-methoxy-1H-indol-1-carboxylate | C(#N)CC1=CN(C2=CC=C(C=C12)OC)C(=O)OC(C)(C)C | C16H18N2O3
